US09108969B2
Step A: Preparation of Ethyl 2-(2-(3-Cyano-5-(trifluoromethoxy)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate
To a mixture of ethyl 2-(2-hydroxy-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate (75 mg, 0.274 mmol) and cesium carbonate (134 mg, 0.412 mmol) in DMF (2 mL) was added 3-(chloromethyl)-5-(trifluoromethoxy)benzonitrile (78 mg, 0.329 mmol). The reaction was heated at 75° C. for 15 h and cooled down. The solid was filtered and washed with ethyl acetate. The combined solvent was evaporated, and the residue was purified by silica gel column chromatography to give the title compound (108 mg). LCMS m/z=473.6 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.30 (t, J=7.1 Hz, 3H), 1.51-1.62 (m, 1H), 2.00-2.10 (m, 1H), 2.10-2.24 (m, 2H), 2.55 (dd, J=15.6, 8.6 Hz, 1H), 2.93 (dd, J=15.6, 5.5 Hz, 1H), 3.45-3.54 (m, 1H), 3.85-3.93 (m, 1H), 4.10-4.17 (m, 1H), 4.22 (q, J=7.1 Hz, 2H), 5.14 (s, 2H), 6.18 (s, 1H), 6.87 (dd, J=8.8, 2.4 Hz, 1H), 7.05 (d, J=2.4 Hz, 1H), 7.18 (d, J=8.8 Hz, 1H), 7.44 (s, 1H), 7.58 (s, 1H), 7.71 (s, 1H).

reactant | ethyl 2-(2-hydroxy-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate | 0.274 mmol, 75 mg | OC=1C=C2C=C3N(C2=CC1)CCCC3CC(=O)OCC | C16H19NO3
reactant | cesium carbonate | 0.412 mmol, 134 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(chloromethyl)-5-(trifluoromethoxy)benzonitrile | 0.329 mmol, 78 mg | ClCC=1C=C(C#N)C=C(C1)OC(F)(F)F | C9H5ClF3NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(2-(3-Cyano-5-(trifluoromethoxy)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate | 108 mg | C(#N)C=1C=C(COC=2C=C3C=C4N(C3=CC2)CCCC4CC(=O)OCC)C=C(C1)OC(F)(F)F | C25H23F3N2O4
